US07425634B2
(80b) 1,4-dioxaspiro[4.4]non-6-ylmethanol
To a suspension of lithium aluminum hydride (630 mg, 16.6 mmol) in diethyl ether (30 ml), methyl 1,4-dioxaspiro[4.4]nonane-6-carboxylate (3.1 g, 16.6 mmol) obtained by the method of the step (80a) above was added at 0° C. The mixture was stirred at room temperature for 3 hours. Water (0.6 ml), a 5N aqueous sodium hydroxide solution (0.6 ml), and water (1.8 ml) were sequentially added at 0° C. to the mixture and the mixture was filtrated. After water was added to the filtrate and the organic layer was separated. The aqueous layer was extracted three times with ethyl acetate. The resultant extract was dried over sodium sulfate, concentrated under reduced pressure, and purified by silica gel column chromatography (elution solvent: ethyl acetate/heptane=1/4, 1/1) to obtain the title compound (1.9 g, yield 72.4%) as a colorless oil.

reactant | lithium aluminum hydride | 16.6 mmol, 630 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1,4-dioxaspiro[4.4]nonane-6-carboxylate | 16.6 mmol, 3.1 g | O1CCOC12C(CCC2)C(=O)OC | C9H14O4
reactant | Water | 0.6 ml | O | H2O
reactant | sodium hydroxide | 5N, 0.6 ml | [OH-].[Na+]
reactant | water | 1.8 ml | O | H2O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1,4-dioxaspiro[4.4]non-6-ylmethanol | 1.9 g, yield 72.4% | O1CCOC12C(CCC2)CO | C8H14O3
